US08258180B2
The sequence of addition of the zinc compound and carbon disulfide is changed to conform to the method of Example 1 of U.S. Pat. No. 6,534,675, and zinc diethyldithiocarbamate (ZDEC-C) is prepared. Add 73 grams of diethylamine to 150 grams of water with temperature controlled at 25° C., then add 900 grams of solution with 3.4% ammonium hydroxide and 1% carbon dioxide which prevents the premature precipitation of the zinc content. Further add 346 grams of zinc ammonia complex solution A as in Example 1 containing 9.56% zinc to the solution and 1.7 grams of emulsifier Tanemul 1203. Lower the solution temperature to 15° C., add 78.5 grams of carbon disulfide slowly into the mixture under heavy agitation over 1 hour while keeping the temperature at or below 20° C. Yellowish white precipitates appear with the addition, and vapor comes out from the mixture. Continue the agitation for 3 hours, then heat the solution gradually to 40° C. Boil the solution, continue agitation for another 2 hours, then vacuum filter the precipitates. The filtrate has a pH of 8.45, and is substantially free of zinc and ammonia. The filtration is finished in 5 minutes. Wash the solid at the filter with 500 ml of 80° C. distilled water four times. Then dry the precipitate at 110° C. for 2 hours to obtain 172 grams of zinc diethyldithiocarbamate with 0.1% moisture content. We call this sample ZDEC-C.

reactant | zinc | [Zn] | Zn
reactant | diethylamine | 73 grams | C(C)NCC | C4H11N
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | carbon disulfide | C(=S)=S | CS2
solvent | water | 150 grams | O | H2O
product | zinc diethyldithiocarbamate | 172 grams | C(C)N(C([S-])=S)CC.[Zn+2].C(C)N(C([S-])=S)CC | InChI=1S/2C5H11NS2.Zn/c2*1-3-6(4-2)5(7)8;/h2*3-4H2,1-2H3,(H,7,8);/q;;+2/p-2
